US08686135B2
7-(6-(2-Hydroxypropan-2-yl)pyridin-3-yl)-1-((trans)-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
Alternatively, ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate (1 equiv) and trans-4-methoxycyclohexanamine hydrochloride (1.5 equiv), NMP and DIPEA were combined and heated to 125° C. and maintained at that temperature for 18 h. Upon reaction completion, the mixture was cooled to room temperature and transferred to a mixture of ethyl acetate and aqueous sodium chloride. The aqueous layer was removed and the organic layer was washed successively with aqueous sodium chloride and water. The organic layer was concentrated by vacuum distillation to a low volume, cooled to ambient temperature and the solids were collected and dried to give ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino) acetate. A mixture of ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino) acetate (1 equiv), water (161 equiv) and 85% phosphoric acid (16.5 equiv) was heated at 80° C. Upon reaction completion, the mixture was cooled to 25° C., filtered and the solids were washed with water. The solids were resuspended in water and the filtration and wash were repeated. The resulting matieral was dried to give 7-bromo-1-(trans-4-methoxycyclohexyl) -3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one. 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), 2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propan-2-ol (1.08 equiv) and PdCl2(AmPhos)2 (0.0025 equiv) were combined in tetrahydrofuran. The mixture was treated with a solution of potassium carbonate (2.5 equiv) and heated to refux. After cooling to 40° C., toluene was added, and the layers were separated. The organic layer was washed with potassium dihydrogenphosphate solution and treated with a metal scavenger (SiliaBond® Thiol). The mixture was filtered and distilled with the addition of toluene until the temperature reached 100° C. Upon cooling the resulting solids were collected by filtration and dried. The solid was combined with butylated hydroxyl toluene (BHT) (9×10−4 equiv) in IPA and water (3×:5× vol). The mixture was heated to 65° C. and while maintaining this temperature, water (5× vol) was added. A small amount of the title compound (0.02 equiv) in water was added. The mixture was allowed to stand for 2 h, cooled to room temperature and stirred. The resulting solids were collected by filtration and dried to give 7-(6-(2-hydroxypropan-2-yl)pyridin-3-yl)-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as an off-white solid.

reactant | 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | BrC1=CN=C2C(=N1)N(C(CN2)=O)[C@@H]2CC[C@H](CC2)OC | C13H17BrN4O2
reactant | 2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propan-2-ol | 1.08 equiv | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(C)(C)O)C | C14H22BNO3
reactant | potassium carbonate | 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | IPA | CC(C)O | C3H8O
solvent | water | O | H2O
catalyst | PdCl2(AmPhos)2 | 0.0025 equiv | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 7-(6-(2-Hydroxypropan-2-yl)pyridin-3-yl)-1-((trans)-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.02 equiv | OC(C)(C)C1=CC=C(C=N1)C1=CN=C2C(=N1)N(C(CN2)=O)[C@@H]2CC[C@H](CC2)OC | C21H27N5O3
